US05244597
A solution of 3.0 g of trans-4-(4'-cyano-4-biphenylyl)cyclohexanol, 1.1 ml of 3,4-dihydro-2H-pyran in 30 ml of dichloromethane was treated at 0° C. with a solution of 0.007 g of bistrimethylsilyl sulfate in 2 ml of dichloromethane. The reaction mixture was stirred at 0° C. for a further 30 minutes and then washed once with sodium carbonate solution and twice with water and subsequently dried over magnesium sulfate, filtered and concentrated. The crude product was purified by chromatography on silica gel with toluene/ethyl acetate (vol. 9:1). Recrystallization from ethyl acetate at -20° C. gave 1.75 g of pure trans-4-(4'-cyano-4-biphenylyl)cyclohexyl tetrahydropyranyl ether.

reactant | trans-4-(4'-cyano-4-biphenylyl)cyclohexanol | 3.0 g | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)O | C19H19NO
reactant | 3,4-dihydro-2H-pyran | 1.1 ml | O1CCCC=C1 | C5H8O
reactant | bistrimethylsilyl sulfate | 0.007 g | S(=O)(=O)(O[Si](C)(C)C)O[Si](C)(C)C | C6H18O4SSi2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | trans-4-(4'-cyano-4-biphenylyl)cyclohexyl tetrahydropyranyl ether | 1.75 g | O1C(CCCC1)O[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C24H27NO2
